US08426411B2
To a solution of N-((1S,3R,4S)-3-ethyl-4-(8-iodo-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)cyclopropanesulfonamide (0.1 g, 0.16 mmol, prepared using KK from Preparation #GGG.1) in DMF (1.2 mL) was added potassium cyanide (0.03 g, 0.40 mmol), copper(I) iodide (0.076 g, 0.40 mmol), tetrakis(triphenyl-phosphine)palladium(0) (0.002 g, 0.002 mmol) and 18-crown-6 (0.003 g, 0.01 mmol). The reaction mixture was stirred at about 110° C. for about 4 h and cooled to ambient temperature. The solvent was removed under reduced pressure. The residue was partitioned between EtOAc (15 mL) and water (8 mL). The aqueous layer was further extracted with EtOAc (15 mL). The combined organic layers were dried with MgSO4, filtered, and concd under reduced pressure to give N-((1S,3S,4R)-3-(8-cyano-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)-4-ethylcyclopentyl)cyclopropanesulfonamide (0.069 g, 82%): LC/MS (Table 1, Method b) Rt=2.50 min; MS m/z: 530 (M+H)+.

reactant | N-((1S,3R,4S)-3-ethyl-4-(8-iodo-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)cyclopropanesulfonamide | 0.16 mmol, 0.1 g | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1I)COCC[Si](C)(C)C)NS(=O)(=O)C1CC1 | C23H35IN6O3SSi
reactant | potassium cyanide | 0.40 mmol, 0.03 g | [C-]#N.[K+]
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 0.40 mmol, 0.076 g | [Cu]I
catalyst | 18-crown-6 | 0.01 mmol, 0.003 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | N-((1S,3S,4R)-3-(8-cyano-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)-4-ethylcyclopentyl)cyclopropanesulfonamide | 0.069 g, 82% | C(#N)C1=CN(C=2N=CC=3N(C21)C(=NN3)[C@H]3C[C@H](C[C@H]3CC)NS(=O)(=O)C3CC3)COCC[Si](C)(C)C | C24H35N7O3SSi
